US05356966
A mixture of 20.6 g (0.10 mol) of 2,4-di-tert-butylphenol, 22.6 g (0.10 mol) of 4-carboxymethoxymandelic acid and 1 g (10 mmol) of methanesulfonic acid in 50 ml of acetic acid is refluxed for 15 hours. The acetic acid is then distilled off. The residue is dissolved in 100 ml of dichloromethane, and the solution is washed three times with water. The organic phases are combined, dried over magnesium sulfate and concentrated on a vacuum rotary evaporator. Crystallisation of the residue from ligroin gives 31.0 g (78%) of 5,7-di-tert-butyl-3-(4-carboxymethoxyphenyl)benzofuran-2-one, melting point 158°-162° C. (Compound (116), Table 1).

reactant | 2,4-di-tert-butylphenol | 0.10 mol, 20.6 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
reactant | 4-carboxymethoxymandelic acid | 0.10 mol, 22.6 g | C(=O)(O)COC1=CC=C(C(C(=O)O)O)C=C1 | C10H10O6
reactant | methanesulfonic acid | 10 mmol, 1 g | CS(=O)(=O)O | CH4O3S
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5,7-di-tert-butyl-3-(4-carboxymethoxyphenyl)benzofuran-2-one | 31.0 g, 78% | C(C)(C)(C)C=1C=C(C2=C(C(C(O2)=O)C2=CC=C(C=C2)OCC(=O)O)C1)C(C)(C)C | C24H28O5
